US08278335B2
Step 6. 2-(6-Chloropyridazin-3-yl)propan-2-ol
A solution of THF (2.5 mL) and toluene (10 mL), and methylmagnesium chloride (3.0 M, 9.7 mL) were stirred at −20° C. under N2 atmosphere followed by the addition of t-BuOH (0.5 mL, 5.79 mmol) in THF (7 mL) dropwise. The solution was allowed to stir for 30 min and warmed to 3° C. and cooled backed down to −20° C. followed by the addition of the methyl 6-chloropyridazine-3-carboxylate (1.0 g, 5.79 mmol) in portions. The solution quickly turned dark violet and was stirred at 0° C. for 30 min. The solution was then poured into a flask containing 1 N aqueous hydrochloric acid at −5° C., diluted with ethyl acetate, and stirred for 10 min. The layers were then separated and the organic layer was washed with saturated aqueous sodium bicarbonate and brine. The acidic aqueous layer was neutralized with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layers were combined and concentrated in vacuo. Purification via flash chromatography (silica, 0-100% ethyl acetate/hexanes) provided the title compound. LRMS (ESI) calcd for C7H10ClN2O [M+H]+: 173.1, Found: 173.1

reactant | methylmagnesium chloride | 3.0 M, 9.7 mL | C[Mg]Cl
reactant | t-BuOH | 5.79 mmol, 0.5 mL | CC(C)(C)O | C4H10O
reactant | methyl 6-chloropyridazine-3-carboxylate | 5.79 mmol, 1.0 g | ClC1=CC=C(N=N1)C(=O)OC | C6H5ClN2O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Chloropyridazin-3-yl)propan-2-ol | ClC1=CC=C(N=N1)C(C)(C)O | C7H9ClN2O
